US08076331B2
(R)-2-Methyl-1-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-pyrrolidine
2-[4-(3-Bromopropoxy)phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane (20.47 g, 60 mmol), (R)-2-methylpyrrolidine hydrochloride (7.663 g, 63 mmol) and dry, pulverized K2CO3 (24.96 g, 180 mmol) were mixed in dry CH3CN (650 mL). After stirring for 12 h at 78° C. under a nitrogen atmosphere, the reaction mixture was cooled and further (R)-2-methylpyrrolidine hydrochloride (10.0 g, 82 mmol) was introduced and heating at 78° C. was continued for 24 h. The reaction mixture was cooled, filtered and the filtrate was evaporated. Chromatography on silica gel, eluting initially with CH2Cl2, then with a mixture of CH2Cl2/EtOH/aq. NH3 (290:10:1) and later with a (90:10:1) and (40:10:1) mixture of these solvents provided the title compound (17.44 g, 84%). The material crystallized on seeding. A sample was converted into a hydrochloride salt, m.p. 212-214° C.

reactant | 2-[4-(3-Bromopropoxy)phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 60 mmol, 20.47 g | BrCCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H22BBrO3
reactant | (R)-2-methylpyrrolidine hydrochloride | 63 mmol, 7.663 g | Cl.C[C@H]1NCCC1
reactant | K2CO3 | 180 mmol, 24.96 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (R)-2-methylpyrrolidine hydrochloride | 82 mmol, 10.0 g | Cl.C[C@H]1NCCC1
solvent | CH3CN | 650 mL | CC#N | C2H3N
product | (R)-2-Methyl-1-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-pyrrolidine | 17.44 g, 84% | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H32BNO3
